US04097595
A mixture of 930 mg of ethyl 2-amino-4-thiazolyl-acetate, 25 ml of dry chloroform, 0.8 ml of triethylamine and 1.65 g of trityl chloride was stirred for 3 hours and then 3 ml of N hydrochloric acid and 5 ml of water were added thereto. The mixture was stirred and decanted and 5 ml of N hydrochloric acid and 5 ml of water were again added. The mixture was decanted and the organic phase was dried and evaporated to dryness. The residue was added to 10 ml of dioxane and 6 ml of N sodium hydroxide and the mixture was stirred at 50° C and then stood overnight at room temperature. The mixture was evaporated to dryness and the residue was diluted with water. The solution was washed with ether and was acidified with 0.5 ml of acetic acid. The mixture was allowed to crystallize and was then vacuum filtered to obtain 1.33 g of 2-tritylamino-4-thiazolyl-acetic acid which after empasting with ether melted at 220° C.

reactant | ethyl 2-amino-4-thiazolyl-acetate | 930 mg | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
reactant | trityl chloride | 1.65 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
product | 2-tritylamino-4-thiazolyl-acetic acid | 1.33 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)CC(=O)O | C24H20N2O2S
